US06713499B2
To a stirred solution of 40 mg (0.16 mmol) (7-amino-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester in 2 ml DM F at room temperature were added 66 mg (0.47 mmol) potassium carbonate and 40 mg (0.16 mmol) 2-(bromomethyl)pyridine hydrobromide and the mixture heated at 70° C. for 16 h. The mixture was then concentrated in vacuo. Flash chromatography (2/1 ethyl acetate/hexane) afforded 20 mg (37%) {4-methoxy-7-[(pyridin-2-ylmethyl)-amino]-benzothiazol-2-yl}-carbamic acid methyl ester as a yellow solid. ES-MS m/e (%): 367 (M+Na+, 54), 345 (M+H+, 100).

reactant | (7-amino-4-methoxy-benzothiazol-2-yl)-carbamic acid methyl ester | 0.16 mmol, 40 mg | COC(NC=1SC2=C(N1)C(=CC=C2N)OC)=O | C10H11N3O3S
reactant | potassium carbonate | 0.47 mmol, 66 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(bromomethyl)pyridine hydrobromide | 0.16 mmol, 40 mg | Br.BrCC1=NC=CC=C1
product | {4-methoxy-7-[(pyridin-2-ylmethyl)-amino]-benzothiazol-2-yl}-carbamic acid methyl ester | 20 mg, 37% | COC(NC=1SC2=C(N1)C(=CC=C2NCC2=NC=CC=C2)OC)=O | C16H16N4O3S
